US08404859B2
Preparation of 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid
A mixture of 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid methyl ester (70 mg, 0.21 mmol), lithium hydroxide monohydrate (89 mg, 2.10 mmol), THF (5 mL) and water (5 mL) was stirred 15 h, acidified with 1N HCl and extracted with EtOAc (×3). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and evaporated to give the title compound, 71.8 mg (100%). MS m/e 319.9 (M+H+).

reactant | 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid methyl ester | 0.21 mmol, 70 mg | COC(=O)C=1SC(=CC1C(C)C)C(NCC1=CC(=CC=C1)O)=O | C17H19NO4S
reactant | lithium hydroxide monohydrate | 2.10 mmol, 89 mg | O.[OH-].[Li+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 5-(3-Hydroxy-benzylcarbamoyl)-3-isopropyl-thiophene-2-carboxylic acid | OC=1C=C(CNC(=O)C2=CC(=C(S2)C(=O)O)C(C)C)C=CC1 | C16H17NO4S
